US06087380
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-5-(isoindolin-2-yl-sulphonyl)-benzimidazol-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-5-(isoindolin-2-yl-sulphonyl)-benzimidazole and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 33% of theory, Rf value: 0.32 (silica gel; dichloromethane/methanol=4:1) C24H24N6O2S (460.6) EKA mass spectrum: (M+H)+ =461

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-5-(isoindolin-2-yl-sulphonyl)-benzimidazole | CN1C(=NC2=C1C=CC(=C2)S(=O)(=O)N2CC1=CC=CC=C1C2)CNC2=CC=C(C=C2)C#N | C24H21N5O2S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-5-(isoindolin-2-yl-sulphonyl)-benzimidazol-hydrochloride | Yield: 33% | Cl.CN1C(=NC2=C1C=CC(=C2)S(=O)(=O)N2CC1=CC=CC=C1C2)CNC2=CC=C(C=C2)C(N)=N | InChI=1S/C24H24N6O2S.ClH/c1-29-22-11-10-20(33(31,32)30-14-17-4-2-3-5-18(17)15-30)12-21(22)28-23(29)13-27-19-8-6-16(7-9-19)24(25)26;/h2-12,27H,13-15H2,1H3,(H3,25,26);1H
